US07091214B2
A solution of (7-bromo-3-nitroquinolin-4-yl)-(2-methylpropyl)amine (30.9 g, 105 mmol) in acetonitrile (1.8 L) and isopropanol (200 mL) was added to a Parr vessel. A mixture of 5% platinum on carbon (3.0 g) and acetonitrile:isopropanol (20 mL) was added, and the vessel was purged with nitrogen. The vessel was placed under hydrogen pressure (40 psi, 2.8×105 Pa) for two hours. After one hour, the pressure had decreased to 20 psi (1.4×105 Pa) and was readjusted to 40 psi (2.8×105 Pa). The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with acetonitrile. The filtrate was concentrated under reduced pressure to provide 7-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine as an oil.

reactant | (7-bromo-3-nitroquinolin-4-yl)-(2-methylpropyl)amine | 105 mmol, 30.9 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)C | C13H14BrN3O2
solvent | acetonitrile | 1.8 L | C(C)#N | C2H3N
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
catalyst | platinum on carbon | 3.0 g | [Pt] | Pt
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 7-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine | BrC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C13H16BrN3
